US05455260
To 4-(benzoxazol-2-yl)benzyl alcohol (20.9 g; 100 mmol) dissolved in CH2Cl2 (330 ml) and cooled to 0°-5° C. is added thionyl bromide (9.2 ml; 120 mmol) and allowed to warm to room temperature after removing the bath. After 11/2 hours, 2,6-lutidine (11.6 ml; 100 mmol) is added to the mixture and warmed to 30° C. The reaction mixture is then diluted with CH2Cl2, washed with H2O 1×, 0.2M HCl 1×, NaHCO3 2×, brine, dried (MgSO4) and concentrated to dryness. The residue is recrystallized from EtOAc to obtain 4-(benzoxazol-2-yl)benzyl bromide as white-orange needles which is used directly in Step D.

reactant | 4-(benzoxazol-2-yl)benzyl alcohol | 100 mmol, 20.9 g | O1C(=NC2=C1C=CC=C2)C2=CC=C(CO)C=C2 | C14H11NO2
reactant | thionyl bromide | 120 mmol, 9.2 ml | S(=O)(Br)Br | Br2OS
reactant | 2,6-lutidine | 100 mmol, 11.6 ml | N1=C(C=CC=C1C)C | C7H9N
solvent | CH2Cl2 | 330 ml | C(Cl)Cl | CH2Cl2
product | 4-(benzoxazol-2-yl)benzyl bromide | O1C(=NC2=C1C=CC=C2)C2=CC=C(CBr)C=C2 | C14H10BrNO
